** sch_path: /headless/Documents/100X IMPROVEMENT IN BIOELECTRONIC SIGNAL ACQUISITION/test1/cross_coupled_test1.sch
**.subckt cross_coupled_test1
VV4 VDD 0 'VDD'
MM1 D1 D2 ST ST NMOSGEN w=100u l=100u
MM2 D2 D1 ST ST NMOSGEN w=100u l=100u
LL1 VDD xl1 'L/2'
RL1ser xl1 D1 'RS/2'
LL3 VDD xl3 'L/2'
RL3ser xl3 D2 'RS/2'
CC3 D2 D1 'c'
IItail_src ST 0 'Itail'
VV1 n01 0 0 AC 1
RR1 pasp n01 1k
CC2 pasp n02 'cp'
CC4 n02 0 'c'
LL5 n02 xl5 'L'
RL5ser xl5 0 1
CC1 pasp n06 70p
CC6 n06 0 'c'
LL2 n06 xl2 'L'
RL2ser xl2 0 1
VV3 n05 actm 0 AC 1
RR5 actp n05 1k
CC9 actp n03 'cpA'
MM5 n03 actm n04 n04 NMOSGEN w=100u l=100u
MM6 actm n03 n04 n04 NMOSGEN w=100u l=100u
LL7 VDD xl7 'L/2'
RL7ser xl7 n03 'RS/2'
LL6 VDD xl6 'L/2'
RL6ser xl6 actm 'RS/2'
CC5 actm n03 'c'
IItail_src2 n04 0 'ItailA'
CC8 actp n07 'cpB'
MM3 n07 actm n08 n08 NMOSGEN w=100u l=100u
MM4 actm n07 n08 n08 NMOSGEN w=100u l=100u
LL8 VDD xl8 'L/2'
RL8ser xl8 n07 'RS/2'
LL4 VDD xl4 'L/2'
RL4ser xl4 actm 'RS/2'
CC7 actm n07 'C7val'
IItail_src1 n08 0 'ItailB'
VV2 n11 act1m 0 AC 1
RR2 act1p n11 1k
CC11 act1p n09 'cp'
MM7 n09 act1m n10 n10 NMOSGEN w=100u l=100u
MM8 act1m n09 n10 n10 NMOSGEN w=100u l=100u
LL10 VDD xl10 'L/2'
RL10ser xl10 n09 'RS/2'
LL9 VDD xl9 'L/2'
RL9ser xl9 act1m 'RS/2'
CC10 act1m n09 'c'
IItail_src3 n10 0 'Itail'
**** begin user architecture code

.param VDD=1.5 L=100n RS=1
.param Itail=130u c=101p cp=0.4p
.param cpA=280f cpB=155f
.param ItailA=4.07509m ItailB=0.65260m
.param C7val=40.362p
.include models/nmosgen_test1.lib
.ac lin 50000 35Meg 210Meg
* zooms (uncomment ONE to measure BW/Q accurately):
* .ac lin 50000 55.4Meg 56.4Meg
* .ac lin 50000 99.6Meg 100.4Meg


.control
run
let vact  = v(actp)-v(actm)
let vmag  = mag(vact)
meas ac vbaseA FIND vmag AT=55.45e6
meas ac vminA  MIN  vmag from=55.7e6  to=56.1e6
meas ac vbaseB FIND vmag AT=99.65e6
meas ac vminB  MIN  vmag from=99.85e6 to=100.15e6
echo depthA_dB (full span underestimates; use zoom .ac for real depth/BW):
print 20*log10(vbaseA/vminA)
echo depthB_dB:
print 20*log10(vbaseB/vminB)
wrdata test1_ac.csv vact v(pasp)
echo Ahora corre:  python3 analyze_notch.py test1_ac.csv
quit
.endc

**** end user architecture code
**.ends
.end
