** sch_path: /home/claude/simulaciones/x10/cross_coupled_x10.sch
**.subckt cross_coupled_x10
VV4 VDD 0 'VDD'
VV3 n01 actm 0 AC 1
RR5 actp n01 1k m=1
RR6 actp actm 1k m=1
MM7 n02 actm n03 n03 NMOSGEN w=100u l=100u m=1
MM8 actm n02 n03 n03 NMOSGEN w=100u l=100u m=1
LL2 VDD xl2 'L/2' m=1
RL2ser xl2 actm 'RS/2' m=1
LL4 VDD xl4 'L/2' m=1
RL4ser xl4 n02 'RS/2' m=1
CC1 actm n02 'c1' m=1
CC6 actp n02 'cp' m=1
IItail_src3 n03 0 'Itail'
MM17 n04 actm n05 n05 NMOSGEN w=100u l=100u m=1
MM18 actm n04 n05 n05 NMOSGEN w=100u l=100u m=1
LL16 VDD xl16 'L/2' m=1
RL16ser xl16 actm 'RS/2' m=1
LL17 VDD xl17 'L/2' m=1
RL17ser xl17 n04 'RS/2' m=1
CC16 actm n04 'c6' m=1
CC17 actp n04 'cp' m=1
IItail_src8 n05 0 'Itail'
MM21 n06 actm n07 n07 NMOSGEN w=100u l=100u m=1
MM22 actm n06 n07 n07 NMOSGEN w=100u l=100u m=1
LL20 VDD xl20 'L/2' m=1
RL20ser xl20 actm 'RS/2' m=1
LL21 VDD xl21 'L/2' m=1
RL21ser xl21 n06 'RS/2' m=1
CC20 actm n06 'c8' m=1
CC21 actp n06 'cp' m=1
IItail_src10 n07 0 'Itail'
MM25 n08 actm n09 n09 NMOSGEN w=100u l=100u m=1
MM26 actm n08 n09 n09 NMOSGEN w=100u l=100u m=1
CC24 actm n08 'c10' m=1
CC25 actp n08 'cp' m=1
IItail_src12 n09 0 'Itail'
LL1 VDD xl1 'L/2' m=1
RL1ser xl1 actm 'RS/2' m=1
LL3 VDD xl3 'L/2' m=1
RL3ser xl3 n08 'RS/2' m=1
**** begin user architecture code

.param VDD=1.5 L=30n RS=1.5 RT=25
.param Itail=180u cp=0.4p
.param C1=21.108p C2=25.1209p C3=30.396p C4=37.526p C5=47.494p C6=62.033p C7=84.434p C8=121.585p
+ C9=189.977p C10=337.737p
.include models/nmosgen_x10.lib
.ac dec 20000 10Meg 250Meg


.control
run
let vact = v(actp)-v(actm)
wrdata x10_ac.csv vact
quit
.endc

**** end user architecture code
**.ends
.end
